US06472534B2
Synthesis of (3S, 4aS, 8aS)-2-{(2 R)-2-[(4S)-2-(3-Hydroxy-2-methylphenyl)-4,5-dihydrooxazol-4-yl]-2-hydroxyethyl}decahydroisoquinoline-3-carboxylic Acid t-butylamide, 20′
The crude product of Example 3, (2R)-1-acetoxy-2-((4S)-2-(3-acetoxy-2-methylphenyl)-4,5-dihydrooxazol-4-yl)-2methanesulfonyloxyethane, 18′(1.98 kg, 3.30 mol) was suspended in a mixed solvent of methanol (6.50 L) and water (6.50 L), and (3S, 4aS, 8aS)-decahydroisoquinoline-3-carboxylic acid t-butylamide, 642 g, 2.62 mol) and potassium carbonate (1.36 kg, 9.81 mol) were successively added, which was followed by stirring at 50° C. for 5.5 h ours. Water (6.50 L) was added to cool the reaction mixture to room temperature and the resulting crystals were collected by filtration. These crude crystals were again suspended in water (6.50 L), stirred, washed and collected by filtration. The obtained crystals were re-suspended in methyl isobutyl ketone (10.0 L) and the suspension was subjected to azeotropic dehydration. The resulting slurry was cooled to room temperature and crystals were collected by filtration to give 902 g (1.07 mol) of the title compound, as colorless crystals.

reactant | (2R)-1-acetoxy-2-((4S)-2-(3-acetoxy-2-methylphenyl)-4,5-dihydrooxazol-4-yl)-2methanesulfonyloxyethane | C(C)(=O)OC[C@H](OS(=O)(=O)C)[C@H]1N=C(OC1)C1=C(C(=CC=C1)OC(C)=O)C | C17H21NO8S
reactant | methanol | 6.50 L | CO | CH4O
reactant | (3S, 4aS, 8aS)-decahydroisoquinoline-3-carboxylic acid t-butylamide | C(C)(C)(C)NC(=O)[C@H]1NC[C@H]2CCCC[C@H]2C1 | C14H26N2O
reactant | potassium carbonate | 9.81 mol, 1.36 kg | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 6.50 L | O | H2O
solvent | water | 6.50 L | O | H2O
product | (3S, 4aS, 8aS)-2-{(2 R)-2-[(4S)-2-(3-Hydroxy-2-methylphenyl)-4,5-dihydrooxazol-4-yl]-2-hydroxyethyl}decahydroisoquinoline-3-carboxylic Acid t-butylamide | 1.07 mol, 902 g | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@@H](O)[C@H]1N=C(OC1)C1=C(C(=CC=C1)O)C | C26H39N3O4
